*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/2.20e-04[uF]/50[V]
* Murata P/N :GRT155R71H221KE01
* Property : C = 2.20e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRT155R71H221KE01 Port1 Port2
C01 Port1 N01 2.19e-10
R01 Port1 N01 1.00e+09
L02 N01 N02 1.30e-10
R03 N02 N03 5.33e-01
C04 N03 N04 4.78e-08
R04 N03 N04 5.33e+04
C05 N04 N05 3.85e-08
R05 N04 N05 1.47e+04
C06 N05 N06 3.62e-08
R06 N05 N06 1.50e+03
C07 N06 N07 3.78e-08
R07 N06 N07 2.07e+02
C08 N07 N08 2.93e-08
R08 N07 N08 3.36e+01
C09 N08 N09 3.12e-08
R09 N08 N09 6.59e+00
C10 N09 N10 1.36e-08
R10 N09 N10 2.95e+00
C11 N10 N11 4.30e-09
R11 N10 N11 1.39e+00
C12 N11 N12 9.50e-10
R12 N11 N12 8.19e-01
C13 N12 N13 2.60e-12
L13 N12 N13 1.10e-10
R13 N12 N13 1.97e+01
C14 N13 Port2 1.09e-12
L14 N13 Port2 1.29e-10
R14 N13 Port2 4.87e+00
.ENDS GRT155R71H221KE01
